US06544989B2
4-Hydroxy-3-nitrophenylacetic acid (10 g, 0.05 mol) was suspended in dichloroethane (50 ml) and stirred at room temperature under a nitrogen atmosphere. N,N-Dimethylformamide (0.1 ml) was added followed by dropwise addition of oxalyl chloride (6.77 g, 0.05 mol) over 20 minutes. The mixture was stirred at room temperature for 25 minutes and then at 40° C. for 20 minutes. The reaction mixture was then heated under reflux while a solution of 5-amino-4-chloro-3-methylisotiazole (7.54 g, 0.05 mol) in dichloroethane (30 ml) was added over 30 minutes. The resultant pale orange suspension was stirred at reflux for 2 hours and then cooled to room temperature, to give a precipitate, which was collected by filtration and washed with dichloromethane. The solid was suspended in water (150 ml), treated with 10% (w/v) sodium hydroxide (50 ml) and the resulting red solution was washed with dichloromethane (2×50 ml). The combined washings were extracted with water (50 ml) and the combined aqueous layers were acidified to pH4-5 by addition of concentrated hydrochloric acid (approximately 10 ml). The resultant yellow suspension was filtered and the solid was washed with water and dried under suction to give N-(4-chloro-3-methyl-5-isothiazolyl)-4-hydrox-3-nitrophenylacetamide (14.6 g) as a yellow solid.

reactant | 4-Hydroxy-3-nitrophenylacetic acid | 0.05 mol, 10 g | OC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H7NO5
reactant | N,N-Dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.05 mol, 6.77 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-4-chloro-3-methylisotiazole | 0.05 mol, 7.54 g | NC1=C(C(=NS1)C)Cl | C4H5ClN2S
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | N-(4-chloro-3-methyl-5-isothiazolyl)-4-hydrox-3-nitrophenylacetamide | 14.6 g | ClC=1C(=NSC1NC(CC1=CC(=C(C=C1)O)[N+](=O)[O-])=O)C | C12H10ClN3O4S
